US07582775B2
F. 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophene-6-carboxylic acid
2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophene-6-carboxylic acid methyl ester (0.48 g, 1.02 mmol) is dissolved in MeOH (2 mL) and treated with H2O (0.5 mL) and NaOH (0.20 g, 5.12 mmol). The resulting mixture is heated at a reflux for 2 h, cooled to RT, and stirred overnight. The solution is diluted with H2O (10 mL), adjusted to pH 3-4 using 1 M HCl, and extracted with EtOAc (40 mL). The EtOAc layer is washed with brine (20 mL), dried with MgSO4, filtered, and concentrated to yield the title compound (0.42 g, 0.92 mmol, 89%). 1H NMR (CDCl3), δ 0.76 (t, J=7.5 Hz, 6H), 0.95 (t, J=7.5 Hz, 6H), 1.68 (q, J=14.8, 7.5 Hz, 4H), 2.25-2.27 (m, 7H), 3.82 (s, 2H), 6.74 (d, J=8.8 Hz, 1H), 7.05 (d, J=2.3 Hz, 1H), 7.09 (dd, J=8.5, 2.1 Hz, 1H), 7.24 (s, 1H), 7.75 (d, J=8.4 Hz, 1H), 7.96 (dd, J=8.3, 1.7 Hz, 1H), 8.48 (d, J=1.7 Hz, 1H). Exact mass (m/z): calcd. for C27H35O4S (M+H)+: 454.2; found: 472.3.

reactant | 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophene-6-carboxylic acid methyl ester | 1.02 mmol, 0.48 g | COC(=O)C=1C=CC2=C(SC(=C2)C(CC)(C2=CC(=C(C=C2)OCC(CC)(O)CC)C)CC)C1 | C28H36O4S
reactant | NaOH | 5.12 mmol, 0.20 g | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | MeOH | 2 mL | CO | CH4O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 0.5 mL | O | H2O
product | 2-{1-Ethyl-1-[4-(2-ethyl-2-hydroxy-butoxy)-3-methyl-phenyl]-propyl}benzo[b]thiophene-6-carboxylic acid | 0.92 mmol, 0.42 g, 89% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(CC)(O)CC)C)C1=CC2=C(S1)C=C(C=C2)C(=O)O | C27H34O4S
